US09126970B2
Step c): Synthesis of 12,12-dimethyl-10,12-dihydro-10-azaindeno-[2,1-b]fluorene
35 ml of pivalic acid are added to 10 g of (9,9-dimethyl-9H-fluoren-2-yl)phenylamine (35 mmol), 0.4 g of palladium(II)acetate (1.78 mmol) and 0.5 g of potassium carbonate (3.62 mmol), and the mixture is stirred at 120° C. for 9 h. After this time, 0.4 g of palladium(II)acetate (1.78 mmol) is added, and the mixture is stirred at 120° C. for a further 9 h. 200 ml of dichloromethane and 0.1 M Na2CO3 solution are then added. The mixture is partitioned between water and dichloromethane, the aqueous phase is extracted three times with dichloromethane, and the combined organic phases are dried over Na2SO4 and evaporated in a rotary evaporator. The residue is recrystallised from toluene/heptane. The yield is 5 g (5 mmol, 50%).

reactant | pivalic acid | 35 ml | C(C(C)(C)C)(=O)O | C5H10O2
reactant | (9,9-dimethyl-9H-fluoren-2-yl)phenylamine | 35 mmol, 10 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)NC1=CC=CC=C1)C | C21H19N
reactant | potassium carbonate | 3.62 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Na2CO3 | 0.1 M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | palladium(II)acetate | 1.78 mmol, 0.4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II)acetate | 1.78 mmol, 0.4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 12,12-dimethyl-10,12-dihydro-10-azaindeno-[2,1-b]fluorene | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=CC=C3C1C2)C | C21H17N
